US09399635B2
(1) Synthesis of 2-hydroxy-4-(2-pyridylmethoxy)benzaldehyde
Separately, 13.8 g (100 mmol) of 2,4-dihydroxybenzaldehyde was dissolved in 250 mL of acetonitrile and 32.5 g (100 mmol) of cesium carbonate was added at room temperature. To this solution, the solution of 2-chloromethylpyridine in acetonitrile prepared in advance was added dropwise at 50° C. over 4 hours and the mixture was stirred for 11 hours. After filtration, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=80/20 to 50/50) to give 6.10 g (27% yield) of the title compound as a white solid.

reactant | 2,4-dihydroxybenzaldehyde | 100 mmol, 13.8 g | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | cesium carbonate | 100 mmol, 32.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-chloromethylpyridine | ClCC1=NC=CC=C1 | C6H6ClN
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
product | 2-hydroxy-4-(2-pyridylmethoxy)benzaldehyde | 6.10 g, 27% yield | OC1=C(C=O)C=CC(=C1)OCC1=NC=CC=C1 | C13H11NO3
